US08748374B2
7-fluoro-3-(trifluoromethyl)quinoxalin-2-ol
To a pressure tube was added 1,2-diamino-4-fluorobenzene (5.0567 g, 40.1 mmol) and p-toluenesulfonic acid (7.63 g, 40.1 mmol) followed by dichloroethane (40.1 ml). The suspension was stirred for a few minutes and ethyl trifluoropyruvate (5.11 ml, 42.1 mmol) was added. The tube was capped and the suspension was stirred at 80° C. and the solid dissolved. The stiffing continued overnight and then the solution was cooled to rt, diluted with dichloromethane/dimethylformamide (4/1, 2×50 ml) and washed with NaHCO3 (1 N, 2×100 ml) and water (100 ml). The combined aq. layers was back-extracted with dichloromethane/dimethylformamide (4/1, 2×50 ml). The combined organic layer was dried (anh. Na2SO4), filtered, and concentrated to give a dark mixture of solid and oil. This residue was diluted with dichloromethane and hexane and concentrated to give a solid (7 g). The ratio of isomers (6-F/7-F) was 2/1 based on 1H NMR integration of the crude material. The solid was dissolved in acetone and silica gel (140 g) was added. The mixture was concentrated, and the solid mixture was loaded on a silica gel column. The column was eluted with ethyl acetate/hexane=1/6 to 1/3 and then the 6F-isomer was flushed out with ethyl acetate/hexane=2/1) to give the title compound 106a.

reactant | 1,2-diamino-4-fluorobenzene | 40.1 mmol, 5.0567 g | NC1=C(C=C(C=C1)F)N | C6H7FN2
reactant | p-toluenesulfonic acid | 40.1 mmol, 7.63 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | dichloroethane | 40.1 ml | ClC(C)Cl | C2H4Cl2
reactant | ethyl trifluoropyruvate | 42.1 mmol, 5.11 ml | FC(C(C(=O)OCC)=O)(F)F | C5H5F3O3
solvent | dichloromethane dimethylformamide | 50 ml | ClCCl.CN(C=O)C
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 7-fluoro-3-(trifluoromethyl)quinoxalin-2-ol | 7 g | FC1=CC=C2N=C(C(=NC2=C1)O)C(F)(F)F | C9H4F4N2O
